US05047520
A solution of 139 mg (0.5 mmol) of 2'-deoxy-2'-methylidene-4-N-benzoylcytidine in 10 ml of methanolic ammonia was stirred at room temperature for 6 hours to cause reaction and the solvent distilled off under reduced pressure. The residue was developed through a silica gel column (1.6×10 cm, 20% ethanol-chloroform being used as a solvent for elution), fractions containing the desired compound collected, 2 ml of 1N hydrochloric acid added, and the solvent distilled off under reduced pressure. The residue was crystallized from acetone-methanol to obtain 115 mg (yield 83%) of 2'-deoxy-2'-methylidenecytidine.

reactant | 2'-deoxy-2'-methylidene-4-N-benzoylcytidine | 0.5 mmol, 139 mg | C=C1[C@@H](O[C@@H]([C@H]1O)CO)N1C(=O)N=C(NC(C2=CC=CC=C2)=O)C=C1 | C17H17N3O5
solvent | ammonia | 10 ml | N | H3N
product | 2'-deoxy-2'-methylidenecytidine | 115 mg, yield 83% | C=C1[C@@H](O[C@@H]([C@H]1O)CO)N1C(=O)N=C(N)C=C1 | C10H13N3O4
